US04892871
To 29.85 g (0.200 mol) of 2,6-diethylaniline in 100 ml of pyridine was added 41.94 g (0.220 mol) of p-toluenesulfonyl chloride in portions at 10° to 4° C. The reaction mixture was stirred overnight, poured into 1 l of 10% hydrochloric acid, filtered, washed three times with water, dissolved in CHCl3, dried over MgSO4, and evaporated to dryness to yield 61.48 g (101.3%) of crude product. A portion (46.3 g) was recrystallized from cyclohexane to yield 33.1 g of 2,6-diethylphenyl-p-toluenesulfonamide, mp. 133.4°. NMR (CDCl3): δ 1.05 (t, 6H), 2.45 (m, 7H), 6.10 (s, 1H), 6.9-7.3 (m, 5H), 7.5-7.7 (d, 2H).

reactant | 2,6-diethylaniline | 0.200 mol, 29.85 g | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | p-toluenesulfonyl chloride | 0.220 mol, 41.94 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 1 l | Cl | ClH
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2,6-diethylphenyl-p-toluenesulfonamide | 33.1 g | C(C)C1=C(C(=CC=C1)CC)C1=C(C=CC(=C1)S(=O)(=O)N)C | C17H21NO2S
